US07759370B2
(R)-tert-Butyl 2,2,4-trimethyl-4-(2-oxo-2-(3-(trifluoromethyl)-4-(5-(4-(trifluoromethyl)phenyl)pentyloxy)phenyl)ethylcarbamoyl)oxazolidine-3-carboxylate
The title compound was prepared from (R)-tert-butyl 4-(2-(4-hydroxy-3-(trifluoromethyl)phenyl)-2-oxoethylcarbamoyl)-2,2,4-trimethyloxazolidine-3-carboxylate (0.25 mmol, 1.0 equiv) and 5-(4-(trifluoromethyl)phenyl)pentan-1-ol (0.25 mmol, 1.0 equiv) according to the general procedure in 31% yield. HPLC retention time on a C18 column (30×4.6 mm, 3.5 V) was 3.26 min with gradient 50-95% acetonitrile-H2O (0.1% TFA) in 3.5 min as mobile phase. MS (ESI, M+H+)=675.6.

reactant | (R)-tert-butyl 4-(2-(4-hydroxy-3-(trifluoromethyl)phenyl)-2-oxoethylcarbamoyl)-2,2,4-trimethyloxazolidine-3-carboxylate | 0.25 mmol, 1.0 equiv | OC1=C(C=C(C=C1)C(CNC(=O)[C@@]1(N(C(OC1)(C)C)C(=O)OC(C)(C)C)C)=O)C(F)(F)F | C21H27F3N2O6
reactant | 5-(4-(trifluoromethyl)phenyl)pentan-1-ol | 0.25 mmol, 1.0 equiv | FC(C1=CC=C(C=C1)CCCCCO)(F)F | C12H15F3O
solvent | acetonitrile H2O | C(C)#N.O
product | (R)-tert-Butyl 2,2,4-trimethyl-4-(2-oxo-2-(3-(trifluoromethyl)-4-(5-(4-(trifluoromethyl)phenyl)pentyloxy)phenyl)ethylcarbamoyl)oxazolidine-3-carboxylate | 31% yield | CC1(OC[C@@](N1C(=O)OC(C)(C)C)(C(NCC(C1=CC(=C(C=C1)OCCCCCC1=CC=C(C=C1)C(F)(F)F)C(F)(F)F)=O)=O)C)C | C33H40F6N2O6
